US07943619B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-ethyl)-amide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (200 mg, 0.64 mmol) in DMF (8 mL) was added 1,1-carbonyl-diimidazole (135 mg, 0.83 mmol) and the mixture was stirred for 4 h at room temperature. Ethanolamine (0.27 mL, 4.50 mmol) was added and stirring was continued for 1 h. Water (20 mL) was added and the mixture was extracted with ethyl acetate (90 mL). The combined organic layers were washed with water (60 mL) and dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 30:70) afforded the title compound (215 mg, 94%) as a white foam. MS: m/e=355.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)C(=O)O | C16H13N3O4
reactant | Ethanolamine | 4.50 mmol, 0.27 mL | C(O)CN | C2H7NO
reactant | Water | 20 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2-hydroxy-ethyl)-amide | 215 mg, 94% | OCCNC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C18H18N4O4
